US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 2,4-difluoro-phenylboronic acid to give [1-(2,4-difluoro-phenyl)-6-methoxy-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine. LC-MS m/e 353(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | 2,4-difluoro-phenylboronic acid | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
product | [1-(2,4-difluoro-phenyl)-6-methoxy-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine | FC1=C(C=CC(=C1)F)C1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C19H14F2N4O
